2182-06-15 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: EtoH intoxication, hypertension
   24 Hour Events:
   No significant overnight events
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-15**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 72 (66 - 111) bpm
   BP: 124/75(88) {110/61(75) - 136/92(107)} mmHg
   RR: 11 (10 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
             Total In:
                                                                  1,620 mL
                                                                    226 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,020 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    900 mL
   Urine:
                                                                  1,800 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                   -674 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///22/
   Physical Examination
   Gen: chronically ill appearing adult man, no acute distress.
   HEENT: PERRL, EOMI. Dry MM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: Tender to palpation across anterior chest wall. CTAB anterior
   and posterior.
   Cor: Normal S1, S2. RRR, but mildly tachycardic with minimal exertion.
   No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Pain, moderate swelling and erythema over 3rd, 4th and 5th
   digits of right hand. Otherwise warm, without edema. 2+ DP pulses
   bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Diminished peripheral sensation. Positive intention
   tremor; gain assessment deferred.
   Labs / Radiology
   132 K/uL
   11.5 g/dL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A 37 yo man with history of severe alcoholism with several ICU
   admissions for management of alchohol withdrawl in the past, HCV, and
   HBV, admitted to the [**Hospital Unit Name 44**] for alcohol withdrawal.
   # Alcohol withdrawal: Based on history and exam, epsiode of
   hypertension and tachycardia in [**Name (NI) **], pt likely experienced alcohol
   withdrawal. He has already received aggressive benzodiazapine therapy
   in the ED. Will need close monitoring for further withdrawal treatment.
   -folate, thiamine, MVI
   -valium per CIWA >10 q2h
   -appreciate SW input; pt likely to go for inpatient detox when
   medically stable
   -bed likely available Monday at the earliest
   # Hand pain: Questionable finger fracture on x-ray, although this
   location does not correspond particularly well to pt's symptoms. -pain
   with oxycodone/APAP
   -consider ortho consult
   # Hypernatremia: Now resolved. In setting of EtOH abuse and probable
   poor PO intake, suspect related to dehydration. Pt currently drinking
   to thirst, however given tachycardia with position changes, will
   provide gentle IV hydration as needed.
   # Peripheral neuropathy: Attributed in the past to EtOH abuse. Recent
   folate and B12 within normal limits. No hx of diabetes. Will control
   pain with analgesics for now; consider more definitive therapy when
   acute issues resolved.
   # Anemia: HCT at baseline. Likely multifactorial in etiology (Fe
   deficiency noted on recent studies, EtOH abuse, AOCD). Will empirically
   treat with Fe while in-house, although long-term additional work-up may
   be indicated.
   # HCV/HBV: Previous hx transaminitis, although this may be secondary to
   EtOH.
   -continue to trend liver enzymes
   # Depression/anxiety: No current treatment for this. SW involved; pt
   will need further psychiatric treatment going forward.
   ICU Care
   Nutrition: regular diet
   Glycemic Control: not indicated
   Lines:
   20 Gauge - [**2182-6-14**] 02:00 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: not indicated (eating)
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: could transfer to medicine floor today, with plan for
   discharge to [**Hospital **] rehab early next week

2182-06-15 12:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   History reviewed
   Alcohol withdrawal and right 1st digit DP ? fracture
   24 Hour Events:
   Overnight - no events
   CIWA currently at 10
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Folate/ MVI / Thiamine
   Valium 10 mg PO PRN, percocet PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-15**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 61 (61 - 111) bpm
   BP: 136/72(87) {99/51(64) - 136/92(107)} mmHg
   RR: 11 (7 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
             Total In:
                                                                  1,620 mL
                                                                    976 mL
   PO:
                                                                    600 mL
                                                                    850 mL
   TF:
   IVF:
                                                                  1,020 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  3,350 mL
   Urine:
                                                                  1,800 mL
                                                                  3,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                 -2,374 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100% on RA
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), tenderness to palpation
   ant chest
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Tender right 3-4-5 digits
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   132 K/uL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 H/O ALCOHOL ABUSE
   37 yr old man with recurrent admission for etoh abuse and withdrawl
   presents with same
   1.       Alcohol Withdrawl: Initially needed aggressive benzodiazepines
   in ED for early withdrawl. CIWA now at 10, but tremors not necessarily
   all due to withdrawal. Right hand pain is confounding picture. Will
   change CIWA to q2h. In past has been important to use objective vitals
   as opposed to subjective reports. MVI, thiamine, folate.  IV hydration
   if not keeping up with po intake
   2.       Hand fracture: will ask +/- consult Ortho for reccs re
   splinting. Pain control prn
   3.       Social work: appreciate their help
   - plan is for Section 35 detox on [**Name (NI) 570**]
 pt is requesting to be
   sectioned so this is partly voluntary. Will need 1:1.
   4. Psych meds
 add back prozac, trileptal
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-6-14**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU, will need to have 1 :1 sitter if discharged to floor.
   Requires ICU level nursing care
   Total time spent: 35 minutes

2182-06-16 08:20:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   -Hand: X-ray changes may be old, no splint needed as no tenderness. Can
   elevate hand for edema.
   -Threatened to leave AMA. Does not qualify for Section 12 per psych but
   given expressed desire for detox, will try to Section 35 on Monday.
   Negotiated valium 10-20mg po q2h prn but no change in percocet.
   -Unable to draw labs this AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-16**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 75 (61 - 112) bpm
   BP: 112/61(73) {96/51(38) - 144/82(99)} mmHg
   RR: 16 (6 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
                  Total In:
                                                                  1,576 mL
                                                                    100 mL
   PO:
                                                                  1,450 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    126 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,300 mL
   Urine:
                                                                  4,250 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,674 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: chronically ill appearing adult man, no acute distress.
   HEENT: PERRL, EOMI. Dry MM. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD. No tenderness with palpation.
   Chest: Tender to palpation across anterior chest wall. CTAB anterior
   and posterior.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Moderate swelling and erythema over 3rd, 4th and 5th digits
   of right hand. Otherwise warm, without edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented. CN 2-12 intact. Motor strength intact in all
   extremities. Diminished peripheral sensation. Positive intention
   tremor; gain assessment deferred.
   Labs / Radiology
   132 K/uL
   11.5 g/dL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   A 37 yo man with history of severe alcoholism with several ICU
   admissions for management of alchohol withdrawl in the past, HCV, and
   HBV, admitted to the [**Hospital Unit Name 44**] for alcohol withdrawal.
   # Alcohol withdrawal: Based on history and exam, epsiode of
   hypertension and tachycardia in [**Name (NI) **], pt likely experienced alcohol
   withdrawal. He has already received aggressive benzodiazapine therapy
   in the ED. Will need close monitoring for further withdrawal treatment.
   -folate, thiamine, MVI
   -valium per CIWA >10 q2h
   -appreciate SW input; pt likely to go for inpatient detox when
   medically stable
   -bed likely available Monday at the earliest
   # Hand pain: Questionable finger fracture on x-ray, although this
   location does not correspond particularly well to pt's symptoms. -pain
   with oxycodone/APAP
   -consider ortho consult
   # Hypernatremia: Now resolved. In setting of EtOH abuse and probable
   poor PO intake, suspect related to dehydration. Pt currently drinking
   to thirst, however given tachycardia with position changes, will
   provide gentle IV hydration as needed.
   # Peripheral neuropathy: Attributed in the past to EtOH abuse. Recent
   folate and B12 within normal limits. No hx of diabetes. Will control
   pain with analgesics for now; consider more definitive therapy when
   acute issues resolved.
   # Anemia: HCT at baseline. Likely multifactorial in etiology (Fe
   deficiency noted on recent studies, EtOH abuse, AOCD). Will empirically
   treat with Fe while in-house, although long-term additional work-up may
   be indicated.
   # HCV/HBV: Previous hx transaminitis, although this may be secondary to
   EtOH.
   -continue to trend liver enzymes
   # Depression/anxiety: No current treatment for this. SW involved; pt
   will need further psychiatric treatment going forward.
   ICU Care
   Nutrition: Regular
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: po diet
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU awaiting Section 35 on Monday

2182-06-16 10:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Events noted. Threatened to leave AMA twice
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-16**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 75 (61 - 112) bpm
   BP: 109/52(66) {96/51(38) - 144/82(99)} mmHg
   RR: 9 (6 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
                  Total In:
                                                                  1,576 mL
                                                                    100 mL
   PO:
                                                                  1,450 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    126 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,300 mL
   Urine:
                                                                  4,250 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,674 mL
                                                                 -1,200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
 no new labs
   11.5 g/dL
   132 K/uL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   37 yr old man with recurrent admission for etoh abuse and withdrawl
   presents with same
   1.  Alcohol Withdrawl: Initially needed aggressive benzodiazepines in
   ED for early withdrawl. On CIWA, tremors not necessarily all due to
   withdrawal. Right hand pain is confounding picture. In past has been
   important to use objective vitals as opposed to subjective reports.
   MVI, thiamine, folate.  IV hydration if not keeping up with po intake
   2.  Hand fracture: will ask +/- consult Ortho for reccs re splinting.
   Pain control prn
   3.  Social work: appreciate input
   - plan is for Section 35 detox on [**Name (NI) 570**]
 pt is requesting to be sectioned so this is partly voluntary.
   4. Psych meds
 prozac, trileptal restarted
   Remaining issues as per Housestaff
   Total time 35 minutes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SCH
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR
   Disposition : ICU
   Total time spent: 35 minutes

2182-06-17 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Stayed on CIWA q2.
   -Psych: Section 35 commitment process organized by social work
   Patient reports continued R hand pain and chest pain with deep
   inspiration.  He is requesting Valium.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-6-16**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-17**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 61 (61 - 94) bpm
   BP: 97/60(70) {89/41(52) - 125/76(84)} mmHg
   RR: 9 (7 - 18) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
                  Total In:
                                                                    930 mL
                                                                    240 mL
   PO:
                                                                    930 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                    625 mL
   Urine:
                                                                  2,300 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ////
   Physical Examination
   Gen: Chronically ill appearing adult man, agitated but in no acute
   distress.
   Chest: Tender to palpation across anterior chest wall. CTAB anterior
   and posterior.
   Cor: Normal S1, S2. RRR. No murmurs appreciated.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Mild swelling over 3rd, 4th and 5th digits of right hand
   with miild tenderness. Otherwise warm, without edema. 2+ DP pulses
   bilat.
   Neuro: Alert and oriented, No tremor at rest or on intention.
   Labs / Radiology
   132 K/uL
   11.5 g/dL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   A 37 yo man with history of severe alcoholism with several ICU
   admissions for management of alchohol withdrawl in the past, HCV, and
   HBV, admitted to the [**Hospital Unit Name 44**] for alcohol withdrawal.
   1) Alcohol withdrawal: The patient has not required benzo therapy
   overnight as his CIWA <10 despite his requests.  Psych & Social work
   have begun the process for Section 35 rehab/detox but the patient is
   now actually willing to enter rehab voluntarily.  Per psych, the
   patient is competent to leave AMA if he changes his mind before the
   Section 35 is complete.  Medically the patient will remain on CIWA but
   currently has no active indication for benzos.
   -Cont folate, thiamine, MVI
   -Valium 10-20mg q2h per current regimen: will not uptitrate
   # Hand pain: Evaluated by Hand service with no active intervention
   required.
   -Elevate hand
   -Pain ctrl with percocett
    # Peripheral neuropathy: Attributed in the past to EtOH abuse. Recent
   folate and B12 within normal limits. No hx of diabetes. Will control
   pain with percocet, lidoderm, naproxen (pt refusing) prn; will not
   uptitrate per yesterday
s agreement with pt.
   # Anemia: Hct at baseline on prior labs. Likely multifactorial in
   etiology (Fe deficiency noted on recent studies, EtOH abuse, AOCD).
   Will empirically treat with Fe while in-house, although long-term
   additional work-up may be indicated.
   # Depression/anxiety: No current treatment for this. SW involved; pt
   will need further psychiatric treatment going forward.
   Code: DNR/DNI Confirmed
   Regular Diet
   PPx: Heparin SQ
   Access: PIV
   Dispo: called out to medical floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-06-17 13:09:00 Physician Attending Progress Note
Chief Complaint: etoh withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo with severe alcoholism admitted with etoh withdrawal
   24 Hour Events:
   Q 2 hr CIWA overnight
   Psych consult following
   Threatening to leave AMA
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-6-16**] 02:00 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-6-17**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.5
C (95.9
   HR: 72 (60 - 94) bpm
   BP: 111/62(73) {89/41(52) - 125/76(84)} mmHg
   RR: 10 (6 - 18) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.4 kg (admission): 75.4 kg
   Height: 68 Inch
                  Total In:
                                                                    930 mL
                                                                    480 mL
   PO:
                                                                    930 mL
                                                                    480 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,525 mL
   Urine:
                                                                  2,300 mL
                                                                  1,525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,370 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ////
   Physical Examination
   Thin M, agitated, NAD
   CTA
   RR
   benign
   Peripheral Vascular: (Right radial pulse: present(Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse:present)
   Skin:  no rash
   Neurologic: Responds to:alert and oriented, Movement:nonfocal
   Labs / Radiology
   11.5 g/dL
   132 K/uL
   77 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.3 mEq/L
   7 mg/dL
   106 mEq/L
   139 mEq/L
   35.1 %
   5.7 K/uL
        [image002.jpg]
                             [**2182-6-14**]  07:09 PM
   WBC
   5.7
   Hct
   35.1
   Plt
   132
   Cr
   0.6
   Glucose
   77
   Other labs: ALT / AST:55/90, Alk Phos / T Bili:98/0.9, Ca++:8.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O ALCOHOL ABUSE
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   37 yo M with severe alcoholism, recurrent admits for withdrawal,
   admitted with etoh withdrawal
   # Alcohol Withdrawl: Initially needed aggressive benzodiazepines for
   early withdrawl. Remains on CIWA but now is without evidence of active
   withdrawal per vital signs.  Tremor appears intentional and not all
   from withdrawal. In past has been important to use objective vitals as
   opposed to subjective reports.Right hand pain and chest wall pain  are
   confounding picture as pt also requesting pain meds.
     --continue MVI, thiamine, folate.  Taking po
s. Valium per objective
   vital sign parameters
    -- will initiate sx 35 but takes 48 hrs/pt deemed competent to leave
   AMA in interim
   -- appreciate psych input
   2.  Hand fracture/chest wall pain: secondary to fight prior to admit,
   xray w/ evidence of old fx, continue Pain control prn
   3.  Social work: appreciate input
   Will initiate Section 35 detox
   Though cannot prevent pt from leaving AMA prior  as  expresses full
   understanding of risks
   4. Psych meds
 continue prozac, trileptal restarted
   Remaining issues as per Housestaff
   Total time 35 minutes
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes